US04049645
To an ice-cooled suspension of 1.0 gram of N2 -(2-naphthalenesulfonyl)-L-arginine in 15 ml of methanol was added dropwise 0.5 ml of thionyl chloride with vigorous stirring. After being allowed to stand for 2 hours at room temperature, the reaction mixture was refluxed for 2 hours, and was evaporated to dryness (syrup). Treatment of the residual syrup with cold ethyl ether gave crude crystals. After recrystallization from methanol-ethyl ether, colorless N2 -(2-naphthalenesulfonyl)-L-arginine methyl ester hydrochloride was obtained in 90% yield; mp. 183° - 186° C.

reactant | N2 (2-naphthalenesulfonyl)-L-arginine | 1.0 gram | N#N.C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)O
reactant | thionyl chloride | 0.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 15 ml | CO | CH4O
product | N2 (2-naphthalenesulfonyl)-L-arginine methyl ester hydrochloride | 90% yield | N#N.Cl.COC([C@@H](NS(=O)(=O)C1=CC2=CC=CC=C2C=C1)CCCNC(N)=N)=O | InChI=1S/C17H22N4O4S.ClH.N2/c1-25-16(22)15(7-4-10-20-17(18)19)21-26(23,24)14-9-8-12-5-2-3-6-13(12)11-14;;1-2/h2-3,5-6,8-9,11,15,21H,4,7,10H2,1H3,(H4,18,19,20);1H;/t15-;;/m0../s1
